reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[N:1](=[C:2](/[O:3][H:7])[C:4]([O:5][H:10])([H:8])[H:9])\[H:6],45.17773510451122
[C:1]([C:2]([O:3][H:10])=[C:4]([H:11])[H:12])([H:6])([H:7])[H:8].[O:5]([H:9])[H:13]>>[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],70.65684816294127
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([n:3]1[n:2][n:6][n:5][c:4]1[H:10])([H:7])([H:8])[H:9],72.5895608959241
[C:1](=[C:2]=[O:3])([H:7])[H:9].[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:8])([H:10])[H:11]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],63.123277716082285
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C-:5]=[N+:6]1[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],67.4006032156233
[C:1]([C:2]([C:3]([H:11])([H:12])[H:14])([C:4](=[C:5]=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],69.14716208727903
[C:1]([C:2](=[C:3])[N:6]([C:5](=[C:4]([H:10])[H:11])[H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[n:6]1[H:13])([H:7])([H:8])[H:9],1.4588718930019837
[N:1](=[C:2]1/[C@@:3]2([H:7])[C@:4]1([H:8])[C:5]([H:10])([H:11])[O:6]2)\[H:9]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,67.5671314624959
[C:1](/[N:2]=[C:3]1\[O:4][C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],32.480103996386795
[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],58.49220973083789
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])/[C:4]([O:5][H:13])=[N:6]\[H:14])([H:7])([H:8])[H:9],42.317578856325
[C:1]([N+:2]([C-:3]([C:4]#[N:5])[H:12])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],10.094138530819798
[C:1]([C@@:2]([O:3][H:12])([C-:4]([N:5]([C+:6]([O:7][H:13])[H:16])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],6.6793057863322005
[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3](/[N:4]=[C:5](/[O:6][H:10])[H:11])([H:8])[H:9])[H:7],46.954886200600605
[C:1]([C@:2]12[C:3][C:4]([H:11])([H:12])[C@@:5]1([C:7]([H:13])([H:14])[H:15])[O:6]2)([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],1.9744080032193025
[C:1]([C:2](=[C:3]=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],82.11713089549022
[C:1]([C:2]([C@:3]1([H:13])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])/[C:6]1=[N:7]/[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],73.7659002775269
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]=[O:6])=[C:7]([H:14])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15],106.29976886253701
[C:1]([O+:2]=[C-:3][N:5]([C:4]([H:9])([H:10])[H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3]([C:4]([H:9])([H:10])[H:11])=[N:5]/[H:12])([H:6])([H:7])[H:8],30.0680163193979
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([O+:7]=[C-:6][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],115.34184110555901
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[C@:5]1([C:6]#[N:7])[H:12])[H:8]>>[C:3]1([H:9])=[C:5]([H:12])[C:4]1([H:10])[H:11].[C:6](#[N:7])[H:8].[O+:1]#[C-:2],90.0324104752424
[N:1]([C-:2]=[O+:3][C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],53.34327327692999
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[C:4]([H:13])[H:14])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12].[H:9][H:15],96.393758657914
[C:1]([C@@:2]([O:3][H:12])([O:6][C:5](=[C:4]([H:13])[H:14])[N:7]([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],54.09018683868909
